US07855201B2
Step 4: 2,3,4,5-Tetrahydro-1-benzoxepine-8-carbaldehyde
To a solution of 2.01 g (8.8 mmol) of 8-bromo-2,3,4,5-tetrahydro-1-benzoxepine in 54 mL of anhydrous tetrahydrofuran and 13.5 mL of hexane under nitrogen cooled in a dry ice/acetone bath was added dropwise 4.1 mL (10.2 mmol, 1.15 equiv) of 2.5M n-butyllithium in tetrahydrofuran, keeping the internal temperature <−65° C. The mixture was stirred with cooling for 45 minutes. A solution of 1.03 mL (13.3 mmol, 1.5 equiv) dimethylformamide in 9 mL of anhydrous tetrahydrofuran was added dropwise over 5 minutes. The mixture was stirred overnight while warming to ambient temperature. The reaction mixture was poured into 81 mL of 2N HCl, and the layers were separated. The aqueous layer was extracted with 3×85 mL of ether. The combined organic layer was washed with 75 mL each of water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give 1.64 g of a yellow oil. Purification by flash chromatography (5-40% ethyl acetate in hexanes) gave the product as a colorless oil. MS (m+1)=177.2; 1H NMR (400 MHz, CDCl3) 9.92 (s, 1H), 7.49 (m, 2H), 7.29 (d, 1H, J 7.5 Hz), 4.03 (m, 2H), 2.89 (m, 2H), 2.00 (m, 2H), 1.76 (m, 2H).

reactant | 8-bromo-2,3,4,5-tetrahydro-1-benzoxepine | 8.8 mmol, 2.01 g | BrC1=CC2=C(CCCCO2)C=C1 | C10H11BrO
reactant | n-butyllithium | 10.2 mmol, 2.5M, 4.1 mL, 1.15 equiv | C(CCC)[Li]
reactant | dimethylformamide | 13.3 mmol, 1.03 mL, 1.5 equiv | CN(C=O)C | C3H7NO
reactant | HCl | 2N, 81 mL | Cl | ClH
solvent | tetrahydrofuran | 54 mL | O1CCCC1 | C4H8O
solvent | hexane | 13.5 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
product | 2,3,4,5-Tetrahydro-1-benzoxepine-8-carbaldehyde | 1.64 g | O1CCCCC2=C1C=C(C=C2)C=O | C11H12O2
